US03962445
b. 4-Hydroxy-3-nitro-1-phenylcarbostyril
A solution of 4-hydroxy-1-phenyl carbostyril (2.20g.; 0.0093 mole) in glacial acetic acid (10 ml.) was treated rapidly with concentrated nitric acid (2.5 ml.+ d 1.42) and the mixture heated on a steam bath for 21/2 mins. The red solution deposited a dark yellow solid on cooling which, after dilution with ethanol, was filtered off and washed well with ethanol, m.p. (AcOH - EtOH) 167°-169°C. (Found: C, 64.13; H, 3.70; N, 9.85; C15H10N2O4 requires; C, 63.83; H, 3.57; N, 9.92%).

reactant | 4-hydroxy-1-phenyl carbostyril | 0.0093 mole, 2.20g | OC1=CC(N(C2=CC=CC=C12)C1=CC=CC=C1)=O | C15H11NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-3-nitro-1-phenylcarbostyril | OC1=C(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)[N+](=O)[O-] | C15H10N2O4
